US03987047
2-Acetyl-5-hydroxy-11-methyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride was prepared from 5-hydroxy-11-methyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and acetyl chloride analogous to Example 63, followed by hydrolysis of the intermediate 2-acetyl-5-acetoxy-2,3,4,5-tetrahydro-11-methyl-1H -azepino[4,3-b]quinoline with dilute sodium hydroxide.

reactant | 5-hydroxy-11-methyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | OC1CCNCC=2C1=NC=1C=CC=CC1C2C | C14H16N2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 2-acetyl-5-acetoxy-2,3,4,5-tetrahydro-11-methyl-1H -azepino[4,3-b]quinoline | C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2C)C(CC1)OC(C)=O | C18H20N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Acetyl-5-hydroxy-11-methyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride | Yield: 79% | Cl.C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2C)C(CC1)O | InChI=1S/C16H18N2O2.ClH/c1-10-12-5-3-4-6-14(12)17-16-13(10)9-18(11(2)19)8-7-15(16)20;/h3-6,15,20H,7-9H2,1-2H3;1H
